US08293909B2
To a solution containing methyl 2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxylate (0.021 g, 0.33 mmol), THF (0.20 mL) and methanol (0.13 mL) was added aqueous lithium hydroxide (0.081 mL, 2.0 M). The solution was maintained at room temperature for 20 h, then at 45° C. for 8 h. The solution was adjusted to below pH 4 with aqueous HCl (0.21 mL, 1.0 N) and extracted with ethyl acetate (2×0.50 mL). The combined organic portions were washed with brine (0.50 mL) and concentrated to afford 2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxylic acid as a light yellow residue which was used without further purification. LCMS: retention time: 1.778 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 u, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 10% methanol/90% H2O/10 mM TFA and solvent B was 10% H2O/90% methanol/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 631 (MH+).

reactant | methyl 2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.33 mmol, 0.021 g | FC1=CC=C(C=C1)C1=NN2C(C=C(C(=C2)N(S(=O)(=O)C)CCO)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)=C1C(=O)OC | C34H33FN4O6S
reactant | THF | 0.20 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 2.0 M, 0.081 mL | [OH-].[Li+]
reactant | HCl | 1.0 N, 0.21 mL | Cl | ClH
solvent | methanol | 0.13 mL | CO | CH4O
product | 2-(4-fluorophenyl)-6-(N-(2-hydroxyethyl)methylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | FC1=CC=C(C=C1)C1=NN2C(C=C(C(=C2)N(S(=O)(=O)C)CCO)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O)=C1C(=O)O | C33H31FN4O6S
